US08217032B2
6-(3-Fluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-ol hydrochloride
Charge a flask with 1-(2-{4-[2-(3-fluorophenyl)-6-methoxy-naphthalen-1-ylmethyl]-phenoxy}-ethyl)-piperidine (1.1 g, 2.3 mmol) dissolved in 250 mL methylene chloride and chill in ice. Add 6.0 mL of neat boron tribromide in portions with stirring and stir the reaction in ice for one hour then at room temperature for 2 hours. Pour the reaction into a two-phase mixture consisting of saturated sodium bicarbonate and an organic phase of 3/1 chloroform/isopropanol. Extract the compound into the organic phase using a separatory funnel, separate the phases and dry the organic layer over 3 Å molecular sieves. Evaporate and purify on a silica column eluting with 3% methanol/methylene chloride. Convert to the hydrochloride salt and lyophilize to yield 650 mg (57%) of the title compound: 1H-NMR (data reported for the free base) (CDCl3, 400 MHz) δ 7.73 (d, J=9.6 Hz, 1H); 7.61 (d, J=8.0 Hz, 1H); 7.32-7.30 (m, 1H); 7.28-7.24 (m, H); 7.15 (d, J=2.0 Hz, 1H); 7.04-6.94 (m, 4H); 6.79 (d, J=8.4 Hz, 2H); 6.62-6.59 (m, 2H); 4.28 (s, 2H); 4.13 (t, J=5.6 Hz, 2H); 2.92-2.92 (m, 2H); 2.72-2.64 (m, 4H); 1.74 (d, J=4.8 Hz, 4H); 1.51-1.51 (m, 2H).

reactant | 1-(2-{4-[2-(3-fluorophenyl)-6-methoxy-naphthalen-1-ylmethyl]-phenoxy}-ethyl)-piperidine | 2.3 mmol, 1.1 g | FC=1C=C(C=CC1)C1=C(C2=CC=C(C=C2C=C1)OC)CC1=CC=C(OCCN2CCCCC2)C=C1 | C31H32FNO2
reactant | boron tribromide | 6.0 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 6-(3-Fluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-ol hydrochloride | 650 mg, 57% | Cl.FC=1C=C(C=CC1)C=1C(=C2C=CC(=CC2=CC1)O)CC1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C30H30FNO2.ClH/c31-25-6-4-5-23(20-25)28-13-9-24-21-26(33)10-14-29(24)30(28)19-22-7-11-27(12-8-22)34-18-17-32-15-2-1-3-16-32;/h4-14,20-21,33H,1-3,15-19H2;1H
